US05100761
3-(1) Synthesis of 2-[4-(4-chloro-3-nitrobenzenesulfonamido)phenyl]-1-formylhydrazine
In a mixture of 90 ml of N,N-dimethylacetamide, 76 ml of acetonitrile, and 19 ml of pyridine were dissolved 35.4 g of 2-(4-aminophenyl)-1-formylhydrazine in a nitrogen gas atmosphere and after cooling the solution to -5° C., 59.9 g of 4-chloro-3-nitrobenzenesulfonyl chloride were gradually added to the solution while cooling and with stirring so that the liquid temperature was not over -5° C. After further stirring the mixture for 1.5 hours at a temperature below -5° C., the temperature was raised to room temperature and the reaction mixture was poured into 1 liter of a saturated aqueous sodium chloride solution. Crystals thus formed were collected by filtration and washed with water to provide 67.5 g of the desired compound.

reactant | acetonitrile | 76 ml | C(C)#N | C2H3N
reactant | 2-(4-aminophenyl)-1-formylhydrazine | 35.4 g | NC1=CC=C(C=C1)NNC=O | C7H9N3O
reactant | 4-chloro-3-nitrobenzenesulfonyl chloride | 59.9 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | sodium chloride | 1 liter | [Cl-].[Na+]
solvent | N,N-dimethylacetamide | 90 ml | CN(C(C)=O)C | C4H9NO
solvent | pyridine | 19 ml | N1=CC=CC=C1 | C5H5N
product | 2-[4-(4-chloro-3-nitrobenzenesulfonamido)phenyl]-1-formylhydrazine | 67.5 g | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)NNC=O)[N+](=O)[O-] | C13H11ClN4O5S
